US06284764B1
The 4,6-dichloro-pyrido[3,4-d]pyrimidine obtained from the previous reaction was taken up in dioxane (50 ml), the 3-methyl 4-phenoxy aniline hydrochloride (2.8 g, 12 mmol) was added and the contents heated to an external bath temperature of -80 oC for 3 hours, whereupon yellow precipitation occurred. Further dioxane (20 ml) was added and the contents heated at ˜75° C. for 12 hours. The solution was then filtered and the yellow solid placed under vacuum to provide the desired (6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-(3-methyl-4-phenoxy-phenyl)-amine hydrochloride (3.6 g, ˜100%). 1H NMR (CD3OD; 400 MHz) δ 9.05 (s, 1H), 8.87 (s, 1H), 8.64 (s, 1H), 7.69 (d, J=2.5 Hz, 1H), 7.58 (dd, J=8.7, 2.5 Hz, 1H),7.35 (dd, J=8.7, 7.5 Hz, 2H), 7.10 (t, J=7.2 Hz, 1H), 6.94 (d, J=8.7 Hz, 3H), 2.29 (s, 3H). MS m/z (MH+): 363.2

reactant | 4,6-dichloro-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
reactant | 3-methyl 4-phenoxy aniline hydrochloride | 12 mmol, 2.8 g | Cl.CC=1C=C(N)C=CC1OC1=CC=CC=C1
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-(3-methyl-4-phenoxy-phenyl)-amine hydrochloride | 3.6 g, ~100% | Cl.ClC1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)OC2=CC=CC=C2)C)C=N1 | InChI=1S/C20H15ClN4O.ClH/c1-13-9-14(7-8-18(13)26-15-5-3-2-4-6-15)25-20-16-10-19(21)22-11-17(16)23-12-24-20;/h2-12H,1H3,(H,23,24,25);1H
